US07932247B2
N-{[6-fluoro-3′-(1-piperazinylmethyl)-3-biphenylyl]methyl}-3-(4-piperidinylmethyl)benzamide
A solution of 1,1-dimethylethyl 4-{[3-({[(6-fluoro-3′-formyl-3-biphenylyl)methyl]amino}carbonyl)phenyl]methyl}-1-piperidinecarboxylate (74 mg, 0.14 mmol) in CH2Cl2 (5 mL) was mixed with 1,1-dimethylethyl (2S)-2-methyl-1-piperazinecarboxylate (26 mg, 0.14 mmol) and NaB(OAc)3H (45 mg, 0.21 mmol). The resulting mixture was stirred for 16 hours, diluted with dichloromethane (30 mL) and washed with brine (10 mL). The organic layer was collected, dried over Na2SO4 and concentrated under vacuum. The residue was purified by loading onto a 2 g amminopropyl SPE cartridge, eluting sequentially with DCM (3×5 mL), EtOAc (3×5 mL), and MeOH (3×5 mL). The DCM fractions were combined, and mixed with 2 mL of TFA. After stirring for 1 h, the mixture was concentrated under vacuum, and the residue thus obtained was purified by Gilson reverse phase HPLC, eluting with acetonitrile/water/0.1% TFA (10/90 to 70/30, v/v, over 12 min), to give the title compound (19 mg, 27%). LC/MS: m/z, 501 (M+H), 1.35 min.

reactant | 1,1-dimethylethyl 4-{[3-({[(6-fluoro-3′-formyl-3-biphenylyl)methyl]amino}carbonyl)phenyl]methyl}-1-piperidinecarboxylate | 0.14 mmol, 74 mg | FC1=CC=C(C=C1C1=CC(=CC=C1)C=O)CNC(=O)C=1C=C(C=CC1)CC1CCN(CC1)C(=O)OC(C)(C)C | C32H35FN2O4
reactant | 1,1-dimethylethyl (2S)-2-methyl-1-piperazinecarboxylate | 0.14 mmol, 26 mg | C[C@@H]1N(CCNC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | NaB(OAc)3H | 0.21 mmol, 45 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | N-{[6-fluoro-3′-(1-piperazinylmethyl)-3-biphenylyl]methyl}-3-(4-piperidinylmethyl)benzamide | 19 mg, 27% | FC1=CC=C(C=C1C1=CC(=CC=C1)CN1CCNCC1)CNC(C1=CC(=CC=C1)CC1CCNCC1)=O | C31H37FN4O
